US08067448B2
N-(4-(5-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)benzamide
To a solution of 4-((1R,2R)-1-(5-(4-aminophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile (306 mg, 0.61 mmol) in CH2Cl2 (10 mL) and pyridine (1.5 mL) was added benzoylchloride (0.10 mL, 0.86 mmol) at room temperature. The resultant solution stirred for 24 hours and quenched with 2N aq. HCl (15 mL). The mixture was further partitioned between H2O (40 mL) and CH2Cl2 (40 mL). The aqueous layer was extracted with CH2Cl2 (30 mL). The combined organic extracts were washed with sat. aq. NaHCO3 (2×40 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a colourless oil (367 mg, 100%): 1H NMR (400 MHz, d6-acetone, δ in ppm) 9.84 (s 1H), 8.10-7.98 (m, 6H), 7.67-7.48 (m, 4H), 6.96 (d, J=8.6 Hz, 1H), 5.76 (d, J=9.0 Hz, 1H), 5.05 (dd, J=6.5, 9.0 Hz, 1H), 4.67 (pentet, J=6.3 Hz, 1H), 2.36 (s, 3H), 1.45 (d, J=6.3 Hz, 3H), 0.83 (s, 9H), 0.11 (s, 3H), 0.00 (s, 3H).

reactant | 4-((1R,2R)-1-(5-(4-aminophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile | 0.61 mmol, 306 mg | NC1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@@H](C)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C | C25H32ClN5O2Si
reactant | benzoylchloride | 0.86 mmol, 0.10 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-(5-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)benzamide | 367 mg, 100% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H](NC1=C(C(=C(C=C1)C#N)Cl)C)C1=NN=C(O1)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)C | C32H36ClN5O3Si
